US07812040B2
cis-3-{[(tert-Butoxycarbonyl)amino]methyl}cyclobutyl Methanesulfonate (8).
Inter-mediate 10, tert-butyl [(cis-3-hydroxycyclobutyl)methyl]carbamate (3 g, 15 mmol) and triethylamine (5.2 mL, 36 mmol) were dissolved in CH2Cl2 (50 mL). MsCl (1.4 mL, 18 mmol) was added dropwise under stirring and cooling with an ice bath in argon. The temperature was brought to ambient within 1 h. Water (50 mL) was added, and the layers were separated. The organic one was washed with water, brine, dried with Na2SO4, and evaporated. The title compound (3.5 g, 85%) was obtained as a yellow oil. This crude product was used for the next stage without additional purification. 1H NMR-data (DMSO-d6): 6.74-7.00 (m, 1H, NH); 4.73-4.86 (m, 1H); 3.10 (s, 3H, MS); 2.97 (t, 2H, CH2, J=5.7 Hz); 2.32-2.42 (m, 2H); 1.80-2.43 (m, 3H); 1.38 (s, 9H, Boc).

reactant | tert-butyl [(cis-3-hydroxycyclobutyl)methyl]carbamate | 15 mmol, 3 g | O[C@H]1C[C@H](C1)CNC(OC(C)(C)C)=O | C10H19NO3
reactant | triethylamine | 36 mmol, 5.2 mL | C(C)N(CC)CC | C6H15N
reactant | MsCl | 18 mmol, 1.4 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 50 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | cis-3-{[(tert-Butoxycarbonyl)amino]methyl}cyclobutyl Methanesulfonate | 3.5 g, 85% | CS(=O)(=O)O[C@@H]1C[C@@H](C1)CNC(=O)OC(C)(C)C | C11H21NO5S
